Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizures, abdominal pain
 
Major Surgical or Invasive Procedure:
mechanical intubation
 
History of Present Illness:
Ms. ___ is a ___ woman with HTN who presents with 
seizure. Around ___ on ___, daughter received a text from her 
cousin that the patient was vomiting. The patien't daughter then 
got back from work in the morning of ___ when she found her 
mother sleeping on her R side facing opposite direction. She 
then did a full turn out of bed and fell on the floor face 
first. Per the daughter, the patient had positive head strike on 
the night stand on her way down to the floor. Daughter turned 
her over and saw pt's bottom jaw retracted and top part of mouth 
sticking out, eyes open, arms straight out stiffly. Tongue was 
starting to come out, and pt was "banging up against the bed." 
After ___ min, convulsions stopped, and pt developed heavy 
breathing/snoring. Her eyes kind of cracked open but she was not 
responsive to daughter. EMS came and brought her outside, but 
head was flopping around as they were transporting her. When 
they got close to ___, pt started to "come to" and kept 
taking off the O2 mask. Seemed to go "in and out" of 
consciousness per daughter. She would get intermittently 
agitated, pupils were dilated, and she would have episodes of 
intermittent staring where she did not seem to be registering 
things. No further shaking. Reportedly got 2mg IV Ativan at 
___ and transferred to ___. Once she arrived at ___, the 
patient was complaining of abdominal pain. CT abd/pelvis showed 
acute pancreatitis. Patient was then intubated given her 
agitation and need for diagnostic procedures. LP was completed. 
Nicardipine gtt was initated at OSH for SBP >220. She is now 
admitted to the neuro ICU, remains intubated on nicardipine gtt 
for further workup and management.

Of note, about 1mo ago, pt was sitting with daughter's cousin. 
There was a yell, so daughter went to go find her mother. At 
that time, pt was sitting up with a "deer caught in headlights 
look." Cousin who witnessed the episode said that she sat 
upright, then started falling backwards and became stiff. Was 
shaking. Lasted a few seconds, then came out of it. After the 
episode, she said she was thirsty and did not remember the 
episode happening at all. 
 
Per son at bedside, she did have a seizure ___ years ago without 
any clear cause. She was living in ___ alone at that time. 
She was taking a lot of Klonopin, vicodin, and Percocet along 
with antidepressants, so unclear if this was a trigger. He does 
not know any further information about the seizure. Also unclear 
if she ever had strokes before. She had fallen ___ months ago in 
___, but son does not think she had any brain hemorrhages 
from that. She came back to ___ about 5 months ago to live 
with her daughter. Since that time, she has only been taking 
lisinopril. No other pain medications.  Patient's daughter 
denies any further drug use over the past 5 months.

 
Past Medical History:
HTN, DVTs
-internal bleed from small intestine  
- tubes tied  
- plantar wart removed  
- procedure in groin  
- colonoscopies 
 
Social History:
___
Family History:
no history of seizures or strokes 
 
Physical Exam:
===ADMISSION EXAM===
General: agitated, refusing to participate in exam
HEENT: contusions on forehead with a few scrapes
___: tachycardic
Pulmonary: breathing comfortably on RA
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Neurologic Examination:
- Mental status: awake, agitated, oriented to ___ and ___. Able to name "thumb" and "watch" and "green." Speech is
clear and not dysarthric. No gibberish.
- Cranial Nerves: PERRL 6->5mm brisk. BTT bilaterally. Face
appears symmetric. Looks around the room fully. Unable to 
perform
more dedicated CN exam ___ pt's agitation 
- Motor: moves all extremities spontaneously and equally
- Reflexes: unable to obtain, pt moving too much and is not
relaxing
- Sensory: withdraws to light touch in all extremities
- Coordination: no ataxia when reaching for bed rails or trying
to pull out foley catheter
- Gait: unable to assess

DISCHARGE EXAM
VS: 98.8 PO 100 / 56 53 18 97 RA
GENERAL: Pleasant elderly woman, sitting up in bed, appears
comfortable in no acute distress. Persistent paranoid delusions.
HEENT: Sclerae anicteric, EOMI, moist mucous membranes
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, or
rhonchi. Good inspiratory effort.
HEART: Regular rate and rhythm, normal S1 and S2, no murmurs,
rubs, gallops, or thrills
ABDOMEN: Normal bowel sounds.  Soft, non-distended.  Mild
improving tenderness and hyperesthesia around lap port incision
sites.  No organomegaly.  No rebound tenderness or guarding.
EXTREMITIES: Warm and well perfused.  No clubbing, cyanosis, or
lower extremity edema.
NEURO: A&Ox3, moving all 4 extremities with purpose
 
Pertinent Results:
ADMISSION LABS
___ 12:00PM BLOOD WBC-15.7* RBC-5.35* Hgb-16.2* Hct-48.4* 
MCV-91 MCH-30.3 MCHC-33.5 RDW-13.6 RDWSD-45.3 Plt ___
___ 12:00PM BLOOD Neuts-91.3* Lymphs-3.8* Monos-4.1* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-14.36* AbsLymp-0.59* 
AbsMono-0.65 AbsEos-0.01* AbsBaso-0.03
___ 12:00PM BLOOD ___ PTT-29.7 ___
___ 12:00PM BLOOD Glucose-228* UreaN-13 Creat-1.3* Na-132* 
K-8.4* Cl-93* HCO3-21* AnGap-18*
___ 06:30PM BLOOD ALT-523* AST-333* AlkPhos-252* 
TotBili-1.7*
___ 06:30PM BLOOD Lipase-1222*
___ 06:30PM BLOOD Calcium-9.6 Phos-2.7 Mg-1.7
___ 12:00PM BLOOD Osmolal-287
___ 12:00PM BLOOD TSH-3.5
___ 12:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:11PM BLOOD Lactate-3.4* K-4.5

PERTINENT LABS
___ 01:55PM BLOOD Lactate-1.1
___ 01:45PM BLOOD WBC-10.5* RBC-3.25* Hgb-9.8* Hct-30.3* 
MCV-93 MCH-30.2 MCHC-32.3 RDW-14.4 RDWSD-49.2* Plt ___
___ 05:25AM BLOOD WBC-7.0 RBC-3.04* Hgb-9.1* Hct-28.1* 
MCV-92 MCH-29.9 MCHC-32.4 RDW-14.3 RDWSD-48.3* Plt ___
___ 04:45PM BLOOD Glucose-93 UreaN-5* Creat-0.7 Na-139 
K-3.6 Cl-100 HCO3-24 AnGap-15
___ 09:45AM BLOOD Glucose-144* UreaN-8 Creat-0.9 Na-138 
K-3.7 Cl-100 HCO3-22 AnGap-16
___ 01:36AM BLOOD ALT-177* AST-50* AlkPhos-110* 
Amylase-149* TotBili-0.6
___ 02:32AM BLOOD ALT-139* AST-38 AlkPhos-131* Amylase-302* 
TotBili-0.9
___ 03:58AM BLOOD Lipase-442*
___ 01:36AM BLOOD Lipase-67*
___ 02:32AM BLOOD Lipase-40

DISCHARGE LABS
___ 05:41AM BLOOD WBC-7.0 RBC-2.81* Hgb-8.7* Hct-26.8* 
MCV-95 MCH-31.0 MCHC-32.5 RDW-14.0 RDWSD-48.2* Plt ___
___ 05:41AM BLOOD Glucose-98 UreaN-7 Creat-0.9 Na-140 K-4.4 
Cl-101 HCO3-28 AnGap-11

IMAGING/STUDIES
CT A/P: ___- 1. Mild to moderate intra and extrahepatic 
biliary ductal dilatation with
probable calculus in the distal common bile duct indicative of 
choledocholithiasis.  If needed, MRCP can provide further 
confirmation and assessment.
2. Edematous pancreas with peripancreatic fat stranding and 
fluid most suggestive of acute interstitial edematous 
pancreatitis.  In the setting of probable choledocholithiasis, 
constellation of findings likely indicate gallstone 
pancreatitis.  Correlation with serum amylase and lipase levels 
are
recommended.
3. Cholelithiasis.  Pericholecystic fluid and stranding may be 
secondary to pancreatitis.
4. Extensive atherosclerotic disease with severe stenosis of the 
SMA and right renal artery with resultant atrophy of the right 
kidney.
5. Bilateral nodular adrenal glands which are incompletely 
characterized.
6. 0.5 cm pulmonary nodule in the right upper lobe.  Please see 
recommendations section.

MRI Brain w/ and w/o: ___: 1. Motion limited exam.
2. No evidence for acute infarction.
3. Nonmasslike FLAIR signal abnormality within the right 
posteriorperiventricular white matter, with discontiguous foci 
of cystic encephalomalacia and no evidence for blood products.  
These may represent sequela of prior infarction, demyelination, 
infection, or other insult.
4. Small chronic infarcts in the left cerebellar hemisphere. 
Punctate cortical FLAIR hyperintensity in the right frontal lobe 
may also represent a chronic infarct.
5. Small area of FLAIR hyperintensity and contrast enhancement 
in the right occipital cortex, with associated chronic blood 
products, and with questionable involvement of the adjacent 
sulci.  This may represent a chronic infarct with hemorrhagic 
transformation or sequela of amyloid angiopathy.
6. Small chronic microhemorrhage in the right posterior internal 
capsule, most likely hypertensive.
7. 6 mm round structure in the region of the left petroclival 
confluence, with diagnostic considerations including a 
cholesterol granuloma, another type of lesion, or an aberrant 
blood vessel.  Partial left mastoid air cell opacification.
 
Brief Hospital Course:
================
PATIENT SUMMARY:
================
___ year old woman who presented with generalized tonic-clonic 
seizure in the setting of gallstone pancreatitis who was found 
to have right side renal artery stenosis. Seizures were 
controlled with keppra and patient underwent cholecystectomy and 
patients blood pressure was well controlled with medical 
management.

=============
ACUTE ISSUES:
=============

#Generalized tonic clonic seizures: 
Patient presented after a witnessed generalized tonic-clonic 
seizures. She presented to the emergency room and seizures were 
initially controlled with ativan in the emergency room. 
Neurology followed the patient during this hospitalization for 
workup of seizures. Patient was found to have gallstone induced 
pancreatitis which is believed to have caused seizures in a 
patient with underlying susceptibility given history of CVA. She 
underwent cholecystectomy. Infectious workup was negative. LP 
was preformed which was bland. MRI demonstrated existing 
infarcts, but no evidence of acute infarction or intracranial 
process. The patient was maintained on Keppra 1500 BID and had 
no further seizures during hospitalization. Neurology recommends 
that the patient continue keppra 1500 BID indefinitely until 
potential modification by outpatient neurology in 6 months. If 
there is concern for mild encephalopathy and gait unsteadiness, 
Keppra could be decreased to 1250 mg twice daily prior to 
follow-up. She was started on atorvastatin and aspirin for 
primary prevention of CVA. 

#Renal artery stenosis:
Patient was found to have right sided renal artery stenosis on 
CT during hospitalization. Systolic blood pressure were 
initially 170 systolic. Her blood pressure was controlled with 
nicardipine drip. Vascular surgery evaluated the patient and 
recommended no surgical intervention. She was medically managed 
with oral antihypertensive regime and blood pressure was 
successfully controlled to the 100-160s systolic. she should 
continue lisinopril, amlodapine and labetalol as an outpatient.

#Gallstone pancreatitis 
Patient was found to have choledocolithiasis induced 
pancreatitis. She underwent cholecystectomy and had an 
uneventful postoperative course. Pain was well controlled with 
oral oxycodone in the postoperative period. The patient will 
follow with acute care surgery two weeks after discharge.

===============
CHRONIC ISSUES:
===============
#GERD: Home famotidine was continued

====================
TRANSITIONAL ISSUES:
====================
[ ] Please recheck patient blood pressure and adjust blood 
pressure medications accordingly as an outpatient
[ ] Neurology recommends that the patient continue keppra 1500 
BID indefinitely until potential modification by outpatient 
neurology in 6 months. If there is concern for mild 
encephalopathy and gait unsteadiness, Keppra could be decreased 
to 1250 mg twice daily prior to follow-up. She was started on 
atorvastatin and aspirin for primary prevention of CVA. 
[ ] Follow up with surgery for post-operative check after 
cholecystectomy
[ ] Follow up with new PCP to establish care and also for 
cardiology referral for her known peripheral vascular disease 
for which she was on aspirin and Plavix, but were stopped for GI 
bleeding in ___.
[ ] given recent seizure, patient should not drive until cleared 
by her Neurologist

FULL CODE
HCP daughter ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO BID 
2. Famotidine 20 mg PO BID 
3. Acetaminophen 500 mg PO Q12H:PRN Pain - Mild 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY hypertension 
RX *amlodipine [Norvasc] 10 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Labetalol 400 mg PO BID Hypertension 
RX *labetalol 200 mg 2 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  LevETIRAcetam 1500 mg PO Q12H 
RX *levetiracetam 1,000 mg 1.5 tablet(s) by mouth every twelve 
(12) hours Disp #*90 Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 

RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*8 Tablet Refills:*0 
7.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
8.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
9.  Famotidine 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
Primary diagnosis
=================
Generalized tonic-Clonic Seizures
cholecystitis
===================
Secondary diagnosis
===================
Right Renal Artery Stenosis
Hypertension
Gallstone Pancreatitis
Encephalopathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
DISCHARGE WORKSHEET INSTRUCTIONS:

Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
You were admitted to the hospital because you had seizures.

WHAT HAPPENED IN THE HOSPITAL?
Your seizures were controlled with medication. You were found to 
have abdominal pain caused by inflammation in your gallbladder 
and pancreas. Your gallbladder was removed and this helped the 
inflammation. We think that your seizures were caused  by the 
inflammation in your gallbladder and pancreas. You were also 
found to have hypertension caused by a partial blockage to the 
artery for your right kidney. You were started on new 
medications to treat your blood pressure and your blood pressure 
improved.

WHAT SHOULD YOU DO AT HOME?
You should continue the new medications for your seizures and 
blood pressure and follow up with the surgeons and neurologist 
at your next scheduled appointment. You also have a primary care 
physician appointment scheduled for you to follow up and 
establish care. You will have to discuss with the new PCP about 
cardiologist referral for your peripheral vascular disease that 
was treated with aspirin, Plavix, and procedures in your lower 
extremity arteries in ___ last year. As you know, your 
Plavix was stopped due to GI bleeding that occurred in ___ 
last year. You need a new cardiologist to continue to manage 
your antiplatelet agents.

Because you had a seizure, please do not drive a car until you 
are cleared by your Neurologist. 

Please work on switching your insurance to ___ so that 
you can continue to get care here. 

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___